US05686445
N-[4-[(Dibenz[b,f][1,4]thiazepin-10(11H)-yl)-carbonyl]phenyl]-2,4-dichlorobenzamide
To a solution of 452 mg of 2,4-dichlorobenzoyl chloride in 6 ml of methylene chloride is added 0.6 g of 10-(4-aminobenzoyl)-10,11-dihydrodibenz[b,f]-[1,4]thiazepine followed by 0.375 ml of triethylamine. The reaction mixture is stirred at room temperature for 18 hours. The reaction mixture is washed with 20 ml of water, 1 N HCl, 1N Na2CO3, water and dried over MgSO4. The filtrate is evaporated in vacuo to give 0.72 g of yellowish solid which is purified by silica gel chromatography on thick layer plates by elution with 1:1 ethyl acetate-hexane to give 0.254 g of the desired product as ivory crystals, m.p. 112°-115° C.

reactant | 2,4-dichlorobenzoyl chloride | 452 mg | ClC1=C(C(=O)Cl)C=CC(=C1)Cl | C7H3Cl3O
reactant | 10-(4-aminobenzoyl)-10,11-dihydrodibenz[b,f]-[1,4]thiazepine | 0.6 g | NC1=CC=C(C(=O)N2C3=C(SC4=C(C2)C=CC=C4)C=CC=C3)C=C1 | C20H16N2OS
reactant | triethylamine | 0.375 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 6 ml | C(Cl)Cl | CH2Cl2
product | N-[4-[(Dibenz[b,f][1,4]thiazepin-10(11H)-yl)-carbonyl]phenyl]-2,4-dichlorobenzamide | 0.72 g | C1=CC=CC2=C1CN(C1=C(S2)C=CC=C1)C(=O)C1=CC=C(C=C1)NC(C1=C(C=C(C=C1)Cl)Cl)=O | C27H18Cl2N2O2S
